US06951848B2
2-Methyl-5-(2-pyrrolidin-1-yl-ethyl)-1H-indole-3-carboxylic acid benzyl ester
To a solution of 5-(2-methanesulfonyloxy-ethyl)-2-methyl-1H-indole-3-carboxylic acid benzyl ester (100 mg, 0.26 mmol) in dioxane (5 mL) was added pyrrolidine (0.2 mL, 2.6 mmol). The mixture was stirred at 70° C. for 1 hour and then was concentrated in vacuo to give a residue, which was purified by chromatography (5%-15% methanol in methylene chloride) to give 85 mg (91%) of the desired product as a thick oil: MS(APCI+): m/z 363.2 (MH+).

reactant | 5-(2-methanesulfonyloxy-ethyl)-2-methyl-1H-indole-3-carboxylic acid benzyl ester | 0.26 mmol, 100 mg | C(C1=CC=CC=C1)OC(=O)C1=C(NC2=CC=C(C=C12)CCOS(=O)(=O)C)C | C20H21NO5S
reactant | pyrrolidine | 2.6 mmol, 0.2 mL | N1CCCC1 | C4H9N
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-Methyl-5-(2-pyrrolidin-1-yl-ethyl)-1H-indole-3-carboxylic acid benzyl ester | 85 mg, 91% | C(C1=CC=CC=C1)OC(=O)C1=C(NC2=CC=C(C=C12)CCN1CCCC1)C | C23H26N2O2
